US06914074B2
7-Hydroxy-3-(4-methoxyphenyl)-1-naphthonitrile
The title compound was prepared by. reacting 3-bromo-7-hydroxy-1-naphthonitrile (0.249 g, 1.00 mmol) with 4-methoxyphenylboronic acid (0.21 g, 1.4 mmol) according to Method A to yield 0.19 (69%) of a light yellow solid: mp 226° C.; 1H NMR (DMSO-d6): δ 3.82 (3H, s), 7.07 (2H, d, J=8.82 Hz), 7.26 (1H, dd, J=2.32 Hz, J=8.90 Hz), 7.37 (1H, d, J=2.27 Hz), 7.80 (2H, d, J=8.80 Hz), 8.02 (1H, d, J=8.96 Hz), 8.37 (1H, d, J=1.85 Hz), 8.44 (1H, d, J=1.43 Hz), 10.48 (1H, bs); MS (ESI) m/z 274 (M−H)−.

reactant | 3-bromo-7-hydroxy-1-naphthonitrile | 1.00 mmol, 0.249 g | BrC=1C=C(C2=CC(=CC=C2C1)O)C#N | C11H6BrNO
reactant | 4-methoxyphenylboronic acid | 1.4 mmol, 0.21 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
product | 7-Hydroxy-3-(4-methoxyphenyl)-1-naphthonitrile | OC1=CC=C2C=C(C=C(C2=C1)C#N)C1=CC=C(C=C1)OC | C18H13NO2
